US07332629B2
To a stirred solution of Salicylic acid (50 g, 143 mmol) in acetone (300 mL) was added anhydrous powdered potassium carbonate (80 g, 580 mmol). Diethyl sulfate (44.25 g, 290 mmol) was added in portions for about 10 min at room temperature. After the addition was complete, the solution was heated to reflux temperature on a water bath and maintained for 3 h. The solution was cooled to room temperature and then concentrated under reduced pressure. Distilled water (200 mL) was added to the reaction mixture, which was then extracted with ethyl acetate (200 mL). The organic layer was washed with distilled water (2×200 mL), dried over anhydrous sodium sulfate, and concentrated to yield the title Ethyl 2-Ethoxy-benzoate (45 g, 80%).

reactant | Salicylic acid | 143 mmol, 50 g | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | potassium carbonate | 580 mmol, 80 g | C([O-])([O-])=O.[K+].[K+]
reactant | Diethyl sulfate | 290 mmol, 44.25 g | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | acetone | 300 mL | CC(=O)C | C3H6O
product | Ethyl 2-Ethoxy-benzoate | 45 g, 80% | C(C)OC1=C(C(=O)OCC)C=CC=C1 | C11H14O3
